US04760180
N,2,6-trimethyltyrosyl-N-(3-phenylpropyl)-D-alaninamide, monohydrochloride
N-methyl-BOC-2,6-dimethyltyrosyl-(D)-alanylphenylpropylamide (iso F) from Example 12 was treated with methanol-HCl/dioxane as described in Example 12, except that no methanol was used after the removal of methanol-HCl/dioxane, so no reduction of volume was necessary before lyophilization. The product is

reactant | N-methyl-BOC-2,6-dimethyltyrosyl-(D)-alanylphenylpropylamide | CN([C@@H](CC1=C(C=C(C=C1C)O)C)C(=O)N[C@H](C)C(=O)[N-]CCCC1=CC=CC=C1)C(=O)OC(C)(C)C
reactant | methanol-HCl dioxane | Cl.CO.O1CCOCC1
solvent | methanol | CO | CH4O
product | N,2,6-trimethyltyrosyl-N-(3-phenylpropyl)-D-alaninamide, monohydrochloride | Cl.CN[C@@H](CC1=C(C=C(C=C1C)O)C)C(=O)N[C@H](C)C(=O)NCCCC1=CC=CC=C1 | InChI=1S/C24H33N3O3.ClH/c1-16-13-20(28)14-17(2)21(16)15-22(25-4)24(30)27-18(3)23(29)26-12-8-11-19-9-6-5-7-10-19;/h5-7,9-10,13-14,18,22,25,28H,8,11-12,15H2,1-4H3,(H,26,29)(H,27,30);1H/t18-,22+;/m1./s1
